US09260416B2
Step 3: 1-(5-Bromo-pyridin-3-ylsulfanyl)-propan-2-one
5-Bromo-pyridine-3-thiol (0.880 g, 4.63 mmol) in THF (100 mL) was cooled to 0° C. and Hünig's base (2.4 mL, 13.89 mmol) was added. Chloroacetone (0.371 mL, 4.63 mmol) was added and the ice bath was removed. After 15 minutes the reaction mixture was concentrated, diluted with EtOAc, and washed with H2O/brine. After drying over MgSO4 the mixture was concentrated and purified on silica gel (0-50% EtOAc in hexanes) to give the title compound.

reactant | 5-Bromo-pyridine-3-thiol | 4.63 mmol, 0.880 g | BrC=1C=C(C=NC1)S | C5H4BrNS
reactant | Hünig's base | 13.89 mmol, 2.4 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | Chloroacetone | 4.63 mmol, 0.371 mL | ClCC(C)=O | C3H5ClO
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | 1-(5-Bromo-pyridin-3-ylsulfanyl)-propan-2-one | BrC=1C=C(C=NC1)SCC(C)=O | C8H8BrNOS
